US07829560B2
N-(4-{[2-(4,4-Difluoropiperidin-1-yl)pyrimidin-4-yl]oxy}-1-naphthyl)-3-fluoro-5-piperidin-1-ylbenzamide (Compound B423).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and 4,4-difluoropiperidine according to conditions described in general procedure C. Mp: 172-174° C.; 1H NMR (400 MHz, CDCl3) δ 1.63-1.71 (m, 6 H), 1.86-1.91 (m, 4 H), 3.28 (t, J=5.8 Hz, 4 H), 3.77 (s, 4 H), 6.07 (d, J=5.8 Hz, 1 H), 6.75-6.79 (m, 1 H), 6.98 (d, J=8.0 Hz, 1 H), 7.29-7.31 (m, 2 H), 7.49-7.60 (m, 2 H), 7.90-7.99 (m, 3 H), 8.12 (s, 1 H), 8.17 (d, J=5.5 Hz, 1 H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | 4,4-difluoropiperidine | FC1(CCNCC1)F | C5H9F2N
product | N-(4-{[2-(4,4-Difluoropiperidin-1-yl)pyrimidin-4-yl]oxy}-1-naphthyl)-3-fluoro-5-piperidin-1-ylbenzamide | FC1(CCN(CC1)C1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCCCC1)F)=O)F | C31H30F3N5O2
